US08222416B2
To a 25 ml, round bottomed flask charged with 1-benzenesulfonyl-2-(1-hydroxy-3-methyl-butyl)-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester (938 mg, 2.33 mmol) was added a solution of Dess-Martin periodinane in dichloromethane (0.3M, 15 mL, 4.5 mmol) at 25° C. The reaction mixture was stirred at 25° C. for 1 h and then quenched with a saturated aqueous sodium bicarbonate solution (10 mL). The mixture was extracted with ethyl acetate (150 mL), washed with a saturated aqueous sodium bicarbonate solution (3×20 mL), brine, dried over anhydrous sodium sulfate and then concentrated in vacuo to give 1-benzenesulfonyl-2-(3-methyl-butyryl)-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester (613 mg, 66%) as a light yellow solid which was used without further purification: LC/MS m/e calcd for C20H21N2O5S [M+H]+ 401.46, observed 401.3; 1H NMR (400 MHz, CDCl3) δ ppm 1.07 (d, J=6.6 Hz, 6H), 2.36 (m, 1H), 2.89 (d, J=7.0 Hz, 2H), 3.97 (s, 3H), 7.00 (s, 1H), 7.57 (brt, 2H), 7.64 (brt, 1H), 8.44 (br. d., 2H), 8.58 (d, J=2.0 Hz, 1H), 9.20 (d, J=2.0 Hz, 1H).

reactant | 1-benzenesulfonyl-2-(1-hydroxy-3-methyl-butyl)-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester | 2.33 mmol, 938 mg | COC(=O)C=1C=C2C(=NC1)N(C(=C2)C(CC(C)C)O)S(=O)(=O)C2=CC=CC=C2 | C20H22N2O5S
reactant | Dess-Martin periodinane | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | dichloromethane | 4.5 mmol, 0.3M, 15 mL | ClCCl | CH2Cl2
product | 1-benzenesulfonyl-2-(3-methyl-butyryl)-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester | 613 mg, 66% | COC(=O)C=1C=C2C(=NC1)N(C(=C2)C(CC(C)C)=O)S(=O)(=O)C2=CC=CC=C2 | C20H20N2O5S
